* File: OA211X1.pex.netlist.pex
* Created: Mon Jun  5 13:17:18 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OA211X1%D_VDD 1 4 10 14 22 34 35 36
c32 36 0 0.191502f
c33 35 0 0.17243f
c34 34 0 0.224906f
c35 30 0 0.0701213f
c36 25 0 0.0701213f
c37 22 0 0.344003f
c38 14 0 0.271502f
c39 10 0 0.492622f
c40 4 0 0.794349f
c41 1 0 0.0701213f
r42 29 36 0.207778
r43 29 30 0.0120155
r44 26 35 0.207778
r45 24 34 0.306944
r46 24 25 0.0120155
r47 18 30 0.0329425
r48 14 30 0.0329425
r49 11 25 0.0329425
r50 4 25 0.0329425
r51 1 26 0.0120155
r52 1 10 0.0329425
r53 1 15 0.0329425
r54 1 22 0.16575
r55 1 18 0.02975
r56 1 14 0.16575
r57 1 15 0.08075
r58 1 10 0.25075
r59 1 11 0.17425
r60 1 4 0.15725
.ends

.subckt PM_OA211X1%D_GND 1 5 6 7 24 32 41
c24 41 0 0.432f
c25 32 0 0.754238f
c26 25 0 0.0701213f
c27 24 0 0.310362f
c28 22 0 0.0701213f
c29 21 0 0.501512f
c30 7 0 0.243981f
c31 6 0 0.150012f
c32 5 0 0.225407f
c33 1 0 0.0701213f
r34 24 25 0.0329425
r35 23 25 0.0329425
r36 21 22 0.0329425
r37 20 22 0.0329425
r38 12 25 0.0120155
r39 8 22 0.0120155
r40 7 16 0.207778
r41 6 12 0.146389
r42 5 8 0.146389
r43 1 16 0.0120155
r44 1 32 0.0329425
r45 1 37 0.0329425
r46 1 41 0.08925
r47 1 37 0.0935
r48 1 32 0.238
r49 1 23 0.1275
r50 1 24 0.204
r51 1 20 0.0765
r52 1 21 0.119
.ends

.subckt PM_OA211X1%N$27 2 7 11 14 15 16 19 23 24 26 27 28 30 32 33 35 42 46
c65 46 0 0.0321523f
c66 42 0 0.0635462f
c67 35 0 0.0159933f
c68 33 0 0.0723844f
c69 32 0 0.0143252f
c70 30 0 0.0741444f
c71 28 0 0.0153414f
c72 27 0 0.0870091f
c73 26 0 0.0907402f
c74 24 0 0.0606779f
c75 23 0 0.185446f
c76 19 0 0.218937f
c77 16 0 0.0717114f
c78 15 0 0.161408f
c79 14 0 0.216611f
c80 11 0 0.210983f
c81 7 0 0.648995f
c82 2 0 0.0700031f
r83 42 46 0.0566888
r84 34 35 0.085
r85 32 35 0.0472333
r86 32 33 3.5
r87 30 40 0.118175
r88 30 32 0.108611
r89 27 34 0.0474919
r90 27 28 0.240833
r91 26 28 0.0474919
r92 26 39 0.269167
r93 23 40 0.0108367
r94 23 24 0.559583
r95 21 24 0.0474919
r96 21 46 0.198333
r97 17 19 14.4737
r98 15 33 31.9444
r99 15 16 15.2843
r100 14 33 15.2843
r101 9 19 7.02029
r102 9 11 37.5
r103 7 16 181.25
r104 3 17 7.02029
r105 3 14 77.0833
r106 2 39 0.0519666
.ends

.subckt PM_OA211X1%OR_O 2 4 7 9 11 14 16 17 19 21 22 28 32
c41 28 0 0.0534304f
c42 22 0 0.0921072f
c43 21 0 0.213289f
c44 19 0 0.281981f
c45 17 0 0.0818986f
c46 16 0 0.383502f
c47 14 0 0.169017f
c48 9 0 0.251442f
c49 7 0 0.394449f
c50 4 0 0.443961f
r51 28 29 7
r52 25 28 0.0377778
r53 21 32 0.17312
r54 20 25 0.0216719
r55 20 21 0.155833
r56 19 25 0.0216719
r57 18 22 0.0202956
r58 18 19 0.835833
r59 16 29 51.3889
r60 16 17 0.139
r61 12 14 27.0833
r62 9 14 1.46822
r63 9 11 58.3333
r64 5 17 14.6202
r65 5 7 95.8333
r66 4 17 14.6202
r67 3 12 1.46822
r68 3 4 154.167
r69 2 22 0.0244253
.ends

.subckt PM_OA211X1%N$2 2 5 9 11 12 13 15 18 21 25 31 32 36 41
c67 41 0 0.157911f
c68 36 0 0.285184f
c69 32 0 0.0895835f
c70 25 0 0.0370576f
c71 21 0 0.0617493f
c72 18 0 0.126308f
c73 15 0 0.0641932f
c74 13 0 0.100133f
c75 12 0 0.202007f
c76 11 0 0.117751f
c77 9 0 0.75808f
c78 5 0 0.475679f
r79 35 36 20.8333
r80 31 41 0.168525
r81 26 35 6.94444
r82 25 28 0.0519666
r83 25 26 7
r84 22 23 0.0286609
r85 21 32 0.0897222
r86 21 23 0.0549597
r87 18 28 0.410833
r88 16 22 0.027481
r89 15 18 0.0474919
r90 15 16 0.14875
r91 14 41 0.0172428
r92 13 23 0.027481
r93 13 14 0.3825
r94 12 41 0.0373714
r95 11 12 0.8925
r96 7 36 6.3741
r97 7 9 214.583
r98 3 35 6.3741
r99 3 5 125
r100 2 11 0.073771
.ends

.subckt PM_OA211X1%OUT 2 3 9 10 13
c16 13 0 0.446208f
c17 10 0 0.121903f
c18 9 0 0.0904085f
c19 3 0 0.212833f
r20 11 13 0.458056
r21 9 11 0.0375497
r22 9 10 0.0375497
r23 3 10 0.146389
r24 2 3 0.135977
.ends

.subckt PM_OA211X1%N$29 3 4 8 9
c16 9 0 0.118797f
c17 8 0 0.130466f
c18 4 0 0.0508919f
c19 3 0 0.190073f
c20 2 0 0.0719268f
r21 8 16 0.0566888
r22 5 9 0.117381
r23 3 5 0.121886
r24 3 4 0.410833
r25 2 4 0.0474919
r26 2 16 0.134583
.ends

.subckt PM_OA211X1%B 3 5 8 11 15 17 19 21 24 27
c34 27 0 0.254542f
c35 24 0 0.162922f
c36 21 0 0.0467375f
c37 19 0 0.0565062f
c38 17 0 0.226924f
c39 15 0 0.197136f
c40 11 0 0.272331f
c41 8 0 0.267555f
c42 6 0 0.105961f
c43 5 0 0.15422f
c44 3 0 0.263341f
r45 24 28 15.219
r46 24 27 15.219
r47 21 24 7
r48 15 17 43.75
r49 13 15 34.6784
r50 13 27 75
r51 9 19 10.5861
r52 9 11 54.1667
r53 8 19 10.5861
r54 8 28 81.25
r55 5 19 2.75115
r56 5 6 54.1667
r57 1 6 13.9682
r58 1 3 54.1667
.ends

.subckt PM_OA211X1%A 5 9 12 14 17 20
c38 20 0 0.136361f
c39 17 0 0.193064f
c40 14 0 0.0212932f
c41 12 0 0.150374f
c42 9 0 0.423339f
c43 5 0 0.706478f
r44 17 21 15.9673
r45 17 20 10.0491
r46 14 17 7
r47 12 20 21.25
r48 11 12 18.969
r49 9 11 104.167
r50 5 21 185.417
.ends

.subckt PM_OA211X1%D 1 5 9 10 11 13
c29 13 0 0.0318631f
c30 11 0 0.377084f
c31 10 0 0.325059f
c32 5 0 0.420403f
c33 1 0 0.183629f
r34 13 16 7
r35 10 11 21.4286
r36 9 11 58.3333
r37 3 16 15.2155
r38 3 5 131.25
r39 1 16 18.9957
r40 1 10 112.5
.ends

.subckt PM_OA211X1%C 3 5 7 10
c26 10 0 0.0348112f
c27 7 0 0.408585f
c28 5 0 0.330904f
c29 3 0 0.674595f
r30 10 13 7
r31 5 13 32.9864
r32 5 7 100
r33 1 13 15.281
r34 1 3 202.083
.ends

