* File: ON32X1.pex.netlist.pex
* Created: Mon Jun  5 13:18:04 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_ON32X1%D_VDD 1 4 10 14 19 20 25 27 32 43 52 53 54 55 56 57
c58 57 0 0.0369993f
c59 56 0 0.163389f
c60 55 0 0.056259f
c61 54 0 0.166969f
c62 53 0 0.189356f
c63 52 0 0.199996f
c64 43 0 0.0337749f
c65 40 0 0.0701213f
c66 27 0 0.13506f
c67 25 0 0.0746634f
c68 20 0 0.377781f
c69 19 0 0.139461f
c70 14 0 0.299404f
c71 10 0 0.300788f
c72 4 0 0.86752f
c73 1 0 0.917918f
r74 57 78 0.0392853
r75 56 78 0.207778
r76 55 75 0.0350353
r77 55 74 0.0435353
r78 54 74 0.283333
r79 39 53 0.198333
r80 39 40 0.0120155
r81 36 52 0.236111
r82 27 43 0.141667
r83 25 43 0.0435353
r84 24 57 0.00425
r85 24 25 0.102
r86 19 75 0.160556
r87 15 40 0.0329425
r88 10 40 0.0329425
r89 1 27 0.0120155
r90 1 20 0.0329425
r91 1 28 0.0329425
r92 1 19 0.0120155
r93 1 14 0.0329425
r94 1 21 0.0329425
r95 1 36 0.0120155
r96 1 4 0.0329425
r97 1 11 0.0329425
r98 1 32 0.17
r99 1 32 0.102
r100 1 28 0.25075
r101 1 20 0.21675
r102 1 21 0.09775
r103 1 14 0.23375
r104 1 15 0.02125
r105 1 10 0.17425
r106 1 11 0.08075
r107 1 4 0.25075
.ends

.subckt PM_ON32X1%N$117 3 4 7 9 10 11 12 15 16 19 20 21 23 30 31 43 47 49 52 56
c84 56 0 0.0926427f
c85 52 0 0.0771691f
c86 49 0 0.1126f
c87 47 0 0.0386851f
c88 45 0 0.0487133f
c89 43 0 0.0868493f
c90 31 0 0.0700728f
c91 30 0 0.192619f
c92 23 0 0.114708f
c93 21 0 0.2686f
c94 20 0 0.0788053f
c95 16 0 0.0823694f
c96 15 0 0.0482182f
c97 12 0 0.0789814f
c98 11 0 0.448844f
c99 10 0 0.380274f
c100 9 0 0.203174f
c101 7 0 0.402758f
c102 4 0 0.158517f
c103 3 0 0.146799f
r104 52 56 0.0755777
r105 47 49 0.0519666
r106 47 48 7
r107 41 43 0.162917
r108 37 45 0.0497087
r109 37 49 0.2975
r110 32 45 0.0004726
r111 30 45 0.0497087
r112 30 31 0.4675
r113 28 43 0.00499195
r114 28 56 0.375417
r115 24 31 0.06375
r116 24 38 0.14875
r117 23 41 0.00499195
r118 22 38 0.00499195
r119 22 23 0.34
r120 19 21 41.6667
r121 16 21 13.0804
r122 15 20 13.0804
r123 15 16 25
r124 13 20 25
r125 11 13 13.9682
r126 11 12 112.5
r127 10 12 13.9682
r128 9 48 15.4345
r129 9 10 118.75
r130 5 48 16.5368
r131 5 7 100
r132 4 32 0.217222
r133 3 24 0.217222
.ends

.subckt PM_ON32X1%D_GND 1 7 8 9 10 11 33 36 39 42 46 56
c43 56 0 0.313196f
c44 43 0 0.0701213f
c45 42 0 0.307299f
c46 40 0 0.0701213f
c47 39 0 0.61773f
c48 37 0 0.0701213f
c49 36 0 0.310362f
c50 34 0 0.0701213f
c51 33 0 0.536462f
c52 11 0 0.225407f
c53 10 0 0.2856f
c54 9 0 0.196119f
c55 8 0 0.153178f
c56 7 0 0.153178f
c57 1 0 0.518589f
r58 42 43 0.0329425
r59 41 43 0.0329425
r60 39 40 0.0329425
r61 38 40 0.0329425
r62 36 37 0.0329425
r63 35 37 0.0329425
r64 33 34 0.0329425
r65 32 34 0.0329425
r66 28 43 0.0120155
r67 20 40 0.0120155
r68 16 37 0.0120155
r69 12 34 0.0120155
r70 11 28 0.146389
r71 10 24 0.0693421
r72 9 20 0.17
r73 8 16 0.146389
r74 7 12 0.146389
r75 1 24 0.00578103
r76 1 56 0.0590946
r77 1 59 0.0590946
r78 1 41 0.0255
r79 1 42 0.17
r80 1 59 0.1105
r81 1 56 0.136
r82 1 38 0.136
r83 1 39 0.0595
r84 1 35 0.204
r85 1 36 0.1275
r86 1 32 0.153
r87 1 33 0.1785
r88 1 46 0.14875
.ends

.subckt PM_ON32X1%OR_O1 2 3 5 7 8 9 13 14 15 17 19 20 21 30 33 38 43 47
c66 47 0 0.0438941f
c67 43 0 0.238141f
c68 38 0 0.0739331f
c69 33 0 0.0361037f
c70 30 0 0.0563894f
c71 21 0 0.0472092f
c72 20 0 0.0705004f
c73 19 0 0.255949f
c74 17 0 0.0425613f
c75 15 0 0.0717643f
c76 14 0 0.415233f
c77 13 0 0.168477f
c78 9 0 0.0752057f
c79 8 0 0.180508f
c80 7 0 0.277463f
c81 3 0 0.211745f
c82 2 0 0.0806586f
r83 38 47 0.0566888
r84 36 43 15.2778
r85 35 36 7
r86 33 35 0.0579306
r87 30 32 0.0294798
r88 30 31 7
r89 28 30 0.0393064
r90 22 33 0.0172428
r91 22 47 0.141667
r92 20 33 0.0373714
r93 20 21 0.27625
r94 19 21 0.0474919
r95 18 32 0.0200616
r96 18 19 0.750833
r97 17 28 0.0200616
r98 17 27 0.1275
r99 14 31 58.3333
r100 14 15 0.139
r101 11 43 6.3741
r102 11 13 45.8333
r103 10 13 41.6667
r104 8 10 13.9682
r105 8 9 39.5833
r106 7 9 13.9682
r107 6 15 14.6202
r108 6 7 95.8333
r109 3 15 14.6202
r110 3 5 45.8333
r111 2 27 0.0519666
.ends

.subckt PM_ON32X1%OUT 2 4 5 6 8 15 20 21 25
c50 25 0 0.104097f
c51 20 0 0.0865267f
c52 8 0 0.0987678f
c53 6 0 0.117763f
c54 5 0 0.127229f
c55 4 0 0.0864412f
c56 2 0 0.0785746f
r57 21 25 0.0533676
r58 17 20 0.103889
r59 16 17 0.0145839
r60 15 16 0.0299824
r61 13 15 0.0824515
r62 8 25 0.0205746
r63 7 8 0.580833
r64 6 16 0.0524774
r65 5 7 0.0474919
r66 5 6 0.368333
r67 4 13 0.0311119
r68 4 12 0.432083
r69 2 12 0.0566888
.ends

.subckt PM_ON32X1%OR_O2 2 5 7 8 9 11 14 20 26 30
c46 30 0 0.0602891f
c47 26 0 0.0901479f
c48 20 0 0.0770247f
c49 14 0 0.0864334f
c50 11 0 0.935431f
c51 9 0 0.126897f
c52 8 0 0.105965f
c53 7 0 0.308307f
c54 5 0 0.270787f
c55 2 0 0.0706178f
r56 26 30 0.0566888
r57 20 21 0.0855346
r58 18 20 0.0801887
r59 18 19 7
r60 15 21 0.0166335
r61 15 30 0.368333
r62 14 20 0.0166335
r63 13 24 0.0209436
r64 13 14 0.198333
r65 9 19 9.08082
r66 9 11 283.333
r67 7 19 6.05388
r68 7 8 43.75
r69 3 8 15.1347
r70 3 5 66.6667
r71 2 24 0.0192308
.ends

.subckt PM_ON32X1%N$125 2 5 7 9 10 13 17 18 19 26 31 32 33 35 37 41
c66 41 0 0.0815249f
c67 37 0 0.403852f
c68 35 0 0.0694914f
c69 33 0 0.0400722f
c70 32 0 0.0395106f
c71 31 0 0.0373987f
c72 26 0 0.0430898f
c73 19 0 0.0518209f
c74 18 0 0.0551153f
c75 17 0 0.0900647f
c76 13 0 0.0448399f
c77 10 0 0.098955f
c78 7 0 0.266263f
c79 5 0 0.58273f
c80 2 0 0.0700227f
r81 36 37 22.2269
r82 35 41 0.0566888
r83 32 33 0.0678867
r84 30 32 0.113333
r85 24 37 5.29213
r86 23 26 0.0519666
r87 23 24 7
r88 20 41 0.304583
r89 18 20 0.0474919
r90 18 19 0.120417
r91 17 31 0.0281547
r92 17 33 0.283333
r93 13 19 0.051458
r94 12 31 0.0281547
r95 12 13 0.07225
r96 10 31 0.016695
r97 10 26 0.283333
r98 7 37 9.64393
r99 7 9 41.6667
r100 3 36 9.64393
r101 3 5 156.25
r102 2 30 0.0519666
.ends

.subckt PM_ON32X1%N$172 3 4 6 8 11 12
c18 12 0 0.201735f
c19 11 0 0.157759f
c20 8 0 0.0265116f
c21 6 0 0.0280242f
c22 4 0 0.0447894f
c23 3 0 0.112223f
c24 2 0 0.0423307f
r25 11 19 0.0755777
r26 7 12 0.136944
r27 7 8 0.0519666
r28 6 8 0.085
r29 3 6 0.0474919
r30 3 4 0.425
r31 2 4 0.0474919
r32 2 19 0.085
.ends

.subckt PM_ON32X1%N$173 1 7 10 11 20
c29 20 0 0.0334907f
c30 11 0 0.11027f
c31 10 0 0.203201f
c32 7 0 0.0193478f
c33 1 0 0.0723618f
r34 11 20 0.0755777
r35 6 10 0.00944444
r36 6 7 0.0253804
r37 5 10 0.0708333
r38 5 7 0.0253804
r39 3 20 0.085
r40 2 7 0.0197579
r41 1 3 0.0474919
r42 1 2 0.425
.ends

.subckt PM_ON32X1%N$127 1 5 9 10
c15 10 0 0.122936f
c16 9 0 0.108674f
c17 5 0 0.086868f
c18 4 0 0.135453f
c19 1 0 0.199415f
r20 10 17 0.0519666
r21 5 9 0.122778
r22 5 6 0.103591
r23 4 17 0.219583
r24 2 6 0.0114298
r25 1 4 0.0474919
r26 1 2 0.432083
.ends

.subckt PM_ON32X1%A 1 3 5 7 8 9 10 14 16 18 19 21 24
c42 24 0 0.276953f
c43 21 0 0.0367484f
c44 19 0 0.0780679f
c45 16 0 0.283437f
c46 14 0 0.210866f
c47 10 0 0.236141f
c48 9 0 0.0942769f
c49 8 0 0.215306f
c50 7 0 0.326982f
c51 5 0 0.315711f
c52 1 0 0.274364f
r53 24 26 26.3889
r54 21 24 7
r55 16 18 58.3333
r56 12 14 37.5
r57 11 19 2.75115
r58 10 16 13.9682
r59 10 11 50
r60 8 12 13.9682
r61 8 9 43.75
r62 7 19 10.5861
r63 6 26 6.3741
r64 6 7 106.25
r65 5 26 6.3741
r66 4 9 13.9682
r67 4 5 102.083
r68 1 19 10.5861
r69 1 3 58.3333
.ends

.subckt PM_ON32X1%B 3 7 10 16
c28 16 0 0.192607f
c29 10 0 0.01943f
c30 7 0 0.598741f
c31 3 0 0.63123f
r32 15 16 1.43513
r33 13 16 10.0459
r34 10 13 7
r35 5 16 5.98301
r36 5 7 139.583
r37 1 15 5.98301
r38 1 3 164.583
.ends

.subckt PM_ON32X1%C 1 3 6 9 10 12 14 15 17 20
c39 20 0 0.14372f
c40 17 0 0.0431376f
c41 15 0 0.0552859f
c42 12 0 0.28113f
c43 10 0 0.249169f
c44 9 0 0.355449f
c45 6 0 0.615046f
c46 1 0 0.293518f
r47 20 24 15.2843
r48 20 23 15.2843
r49 17 20 7
r50 12 14 58.3333
r51 11 15 2.75115
r52 10 12 13.9682
r53 10 11 52.0833
r54 9 15 10.5861
r55 9 24 106.25
r56 6 23 164.583
r57 1 15 10.5861
r58 1 3 58.3333
.ends

.subckt PM_ON32X1%D 1 5 9 13 16 19
c36 19 0 0.148289f
c37 16 0 0.150998f
c38 13 0 0.0308675f
c39 9 0 0.227896f
c40 5 0 0.886588f
c41 1 0 0.0502245f
r42 16 20 15.2843
r43 16 19 14.4707
r44 13 16 7
r45 9 11 37.5
r46 5 20 256.25
r47 1 11 12.6897
r48 1 19 39.4231
.ends

.subckt PM_ON32X1%E 2 4 7 11 13 17 20 22 25 28
c32 28 0 0.223988f
c33 25 0 0.0782276f
c34 23 0 0.0565062f
c35 22 0 0.0846579f
c36 20 0 0.142136f
c37 17 0 0.281056f
c38 13 0 0.256865f
c39 11 0 0.204755f
c40 7 0 0.286507f
c41 4 0 0.223372f
c42 2 0 0.322013f
r43 25 28 7
r44 21 28 22.2222
r45 21 22 0.139
r46 19 20 30.3214
r47 15 17 58.3333
r48 14 23 2.75115
r49 13 15 13.9682
r50 13 14 54.1667
r51 11 19 37.5
r52 5 23 10.5861
r53 5 7 58.3333
r54 4 23 10.5861
r55 3 22 14.6202
r56 3 4 77.0833
r57 2 22 14.6202
r58 2 20 91.6667
.ends

