* File: OR3X1.pex.netlist.pex
* Created: Mon Jun  5 13:19:50 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OR3X1%D_VDD 1 4 9 15 17 19
c17 19 0 0.234187f
c18 17 0 0.0467475f
c19 15 0 0.0280821f
c20 9 0 0.0994384f
c21 4 0 0.419095f
c22 1 0 0.990452f
r23 14 19 0.136944
r24 14 15 0.0495999
r25 10 17 0.0231002
r26 9 17 0.0225187
r27 9 15 0.2125
r28 4 17 0.0231002
r29 1 10 0.65875
r30 1 4 0.24225
.ends

.subckt PM_OR3X1%Out 2 4 6 14 17 18
c18 18 0 0.181243f
c19 14 0 0.117695f
c20 6 0 0.228866f
c21 4 0 0.388656f
c22 2 0 0.101781f
r23 17 18 0.130102
r24 11 14 0.0708333
r25 6 18 0.0160664
r26 5 11 0.0216719
r27 5 6 0.432083
r28 4 11 0.0216719
r29 4 10 0.715417
r30 2 10 0.0519666
.ends

.subckt PM_OR3X1%N$104 3 4 7 10 11 13 16 18 19 21 22 28 36 37 39
c59 39 0 0.302694f
c60 37 0 0.18129f
c61 36 0 0.0457313f
c62 35 0 0.0254466f
c63 28 0 0.146498f
c64 22 0 0.094814f
c65 21 0 0.0554501f
c66 19 0 0.1575f
c67 18 0 0.0734208f
c68 16 0 0.217634f
c69 11 0 0.241616f
c70 10 0 0.73381f
c71 7 0 0.307325f
c72 4 0 0.0618278f
r73 36 39 0.136944
r74 36 37 0.0519666
r75 28 42 15.2843
r76 28 41 15.2843
r77 27 28 7
r78 24 37 0.595
r79 23 35 0.0359928
r80 22 24 0.0474919
r81 22 23 0.14875
r82 21 35 0.00935391
r83 21 34 0.17
r84 18 35 0.0359928
r85 18 19 0.34
r86 14 16 39.5833
r87 11 16 1.46822
r88 11 13 41.6667
r89 10 14 1.46822
r90 10 42 229.167
r91 7 41 75
r92 4 34 0.0519666
r93 3 19 0.0528374
r94 3 27 0.154545
.ends

.subckt PM_OR3X1%D_GND 1 4 5 7 13 14 17 19 20 26 29 30
c20 37 0 0.0467475f
c21 32 0 0.0467475f
c22 30 0 0.0602946f
c23 29 0 0.0425653f
c24 26 0 0.0614306f
c25 21 0 0.0467475f
c26 20 0 0.326557f
c27 19 0 0.106147f
c28 14 0 0.330646f
c29 13 0 0.0798183f
c30 8 0 0.128073f
c31 7 0 0.0798183f
c32 5 0 0.120483f
c33 1 0 0.44961f
r34 36 37 0.0231002
r35 26 29 0.1275
r36 20 21 0.0231002
r37 18 37 0.0225187
r38 18 19 0.155833
r39 15 32 0.0231002
r40 15 17 0.08075
r41 14 37 0.0231002
r42 14 17 0.2125
r43 13 30 0.0216719
r44 12 32 0.0225187
r45 12 13 0.155833
r46 9 21 0.0231002
r47 8 32 0.0231002
r48 8 9 0.1275
r49 7 22 0.0216719
r50 6 21 0.0225187
r51 6 7 0.155833
r52 5 19 0.0519666
r53 4 30 0.0141667
r54 4 29 0.0519666
r55 4 26 0.0519666
r56 4 22 0.0141667
r57 1 36 0.221
r58 1 20 0.15725
.ends

.subckt PM_OR3X1%A 1 3 5 6 8 10
c27 10 0 0.0404148f
c28 6 0 0.748398f
c29 5 0 0.305413f
c30 1 0 0.210177f
r31 10 13 7
r32 6 13 45.4202
r33 6 8 108.333
r34 5 13 15.3514
r35 4 5 102.083
r36 1 4 13.9682
r37 1 3 25
.ends

.subckt PM_OR3X1%B 3 8 10 11 13 16 19
c26 19 0 0.292179f
c27 16 0 0.151972f
c28 13 0 0.0247308f
c29 11 0 0.104249f
c30 10 0 0.168792f
c31 8 0 0.467484f
r32 16 20 15.22
r33 16 19 15.22
r34 13 16 7
r35 11 19 102.083
r36 10 11 17.6176
r37 8 20 152.083
r38 3 10 25
.ends

.subckt PM_OR3X1%C 1 3 6 8 12 15
c19 15 0 0.175001f
c20 12 0 0.0949048f
c21 8 0 0.363053f
c22 6 0 0.579906f
c23 1 0 0.642543f
r24 12 15 7
r25 9 10 4.32111
r26 8 15 15.2843
r27 8 9 100
r28 4 10 11.051
r29 4 6 158.333
r30 1 10 50.6288
r31 1 3 108.333
.ends

